US08685970B2
To a solution of tert-butyl 3-(3-nitrophenoxy)pyrrolidine-1-carboxylate (8.73 g, 28.3 mmol) in methanol (50 mL) was added Raney Nickel (1.0 g). The solution was stirred over H2 atmosphere (1 atm) 18 hours. The mixture was filtered, concentrated and purified by chromatography to obtain tert-butyl 3-(3-aminophenoxy)pyrrolidine-1-carboxylate as a white solid (5.47 g, 70% yield)

reactant | tert-butyl 3-(3-nitrophenoxy)pyrrolidine-1-carboxylate | 28.3 mmol, 8.73 g | [N+](=O)([O-])C=1C=C(OC2CN(CC2)C(=O)OC(C)(C)C)C=CC1 | C15H20N2O5
solvent | methanol | 50 mL | CO | CH4O
catalyst | Raney Nickel | 1.0 g | [Ni] | Ni
product | tert-butyl 3-(3-aminophenoxy)pyrrolidine-1-carboxylate | 5.47 g, 70% yield | NC=1C=C(OC2CN(CC2)C(=O)OC(C)(C)C)C=CC1 | C15H22N2O3
